US04507299
A. 2-Amino-5-chloro-3-formyl-6-(methylthio)pyrazine
In 3 ml of dimethylformamide there was dissolved 2-amino-5,6-dichloro-3-formylpyrazine prepared as described in Example 1, Steps A and B. The solution was cooled in an ice bath, and there was then bubbled therethrough methane thiol, for 2 minutes followed by addition of triethylamine (223 mg; 2.2 mMol), followed by methane thiol addition for another 3 minutes. The reaction mixture was stirred for 30 minutes at the ice bath temperature and for 30 minutes at room temperature. The methane thiol and dimethylformamide were then blown off, the residue was treated with water, and the product precipitated, was filtered and washed (333 mg). Elemental Analysis for C6H6N3OSCl:

reactant | methane thiol | CS | CH4S
reactant | triethylamine | 2.2 mMol, 223 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | 2-amino-5,6-dichloro-3-formylpyrazine | NC1=NC(=C(N=C1C=O)Cl)Cl | C5H3Cl2N3O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-Amino-5-chloro-3-formyl-6-(methylthio)pyrazine | NC1=NC(=C(N=C1C=O)Cl)SC | C6H6ClN3OS
